US03950380
By replacing in Example 1, step G, 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid with 3-n-butoxy-5-chlorosulfonyl-4-phenylbenzoic acid, and following the procedure described, 3-n-butoxy-4-phenyl-5-sulfamylbenzoic acid is obtained crystallizing with 0.25 mole of water with a melting point of 129°-131° C.

reactant | 3-benzylamino-5-chlorosulfonyl-4-phenylbenzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C20H16ClNO4S
reactant | 3-n-butoxy-5-chlorosulfonyl-4-phenylbenzoic acid | C(CCC)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C17H17ClO5S
product | 3-n-butoxy-4-phenyl-5-sulfamylbenzoic acid | C(CCC)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C17H19NO5S
